US09034866B2
A mixture of 9-Bromo-4-hydroxy-4-methyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (387 mg, 1.04 mmol), 2-methyl-3-butyn-2-ol (699 mg, 8.32 mmol), Pd(OAc)2 (23 mg, 0.104 mmol), CuI (39 mg, 0.208 mmol) and PPh3 (82 mg, 0.312 mmol) in Et3N (15 mL) was degassed with N2, and the mixture was stirred at 80° C. overnight. The reaction mixture was cooled to room temperature, concentrated and purified by flash column chromatography (silica gel, EtOAc in hexane from 0 to 50%) to give 4-Hydroxy-9-(3-hydroxy-3-methyl-but-1-ynyl)-4-methyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester as a yellow solid (312 mg, 80%). LC-MS (ESI & APCI): 374.3 (M+1).

reactant | 9-Bromo-4-hydroxy-4-methyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 1.04 mmol, 387 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)(C)O | C14H12BrNO4S
reactant | 2-methyl-3-butyn-2-ol | 8.32 mmol, 699 mg | CC(C)(C#C)O | C5H8O
reactant | PPh3 | 0.312 mmol, 82 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | Et3N | 15 mL | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 0.104 mmol, 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 0.208 mmol, 39 mg | [Cu]I
product | 4-Hydroxy-9-(3-hydroxy-3-methyl-but-1-ynyl)-4-methyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 312 mg, 80% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)(C)O | C19H19NO5S
